US05420276
In a round-bottom flask were placed 10 g of 9-((2R, 3R, 4S)-3,4-bis-hyroxymethyl-oxetan-2-yl)-adenine and 100 mL of pyridine. To the system was added 6.4 g of tert-butylchlorodimethylsilane, and the reaction mixture was stirred under nitrogen at room temperature for 1 day. The mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate and brine, dried (sodium sulfate) and concentrated with a rotary evaporator. The residue was purified by column chromatography to afford 9-((2R,3R,4S)-4-t-butyldimethylsiloxymethyl-3-hydroxymethyl-oxetan-2-yl)adenine.

reactant | 9-((2R, 3R, 4S)-3,4-bis-hyroxymethyl-oxetan-2-yl)-adenine | 10 g | OC[C@H]1[C@@H](O[C@@H]1CO)N1C2=NC=NC(=C2N=C1)N | C10H13N5O3
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
reactant | tert-butylchlorodimethylsilane | 6.4 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-((2R,3R,4S)-4-t-butyldimethylsiloxymethyl-3-hydroxymethyl-oxetan-2-yl)adenine | O([Si](C)(C)C(C)(C)C)C[C@@H]1[C@H]([C@@H](O1)N1C2=NC=NC(=C2N=C1)N)CO | C16H27N5O3Si
